US08383639B2
2-(5-(4-Fluorobenzyl)-4-methyl-4H-1,2,4-triazol-3-yl)-3-hydroxy-9,9-dimethyl-6,7-dihydropyrimido[2,1-c][1,4]oxazin-4(9H)-one.
To a solution of 3-(benzyloxy)-N,9,9-trimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbothioamide (0.1 g, 0.278 mmol, 1.0 equiv) in acetonitrile (0.9 mL) under a nitrogen atmosphere, was added MeI (0.070 mL, 1.11 mmol, 4 equiv). The reaction was heated at 50° C. (oil bath) for 45 min. The reaction was then cooled to ambient temperature and concentrated in vacuo. 2-(4-Fluorophenyl)acetohydrazide (0.14 g, 0.84 mmol, 3 equiv) was then added to the residue followed by DMF (2 mL) and the slurry was heated at 140° C. (oil bath). After stirring 16 h, the reaction was cooled to ambient temperature and concentrated in vacuo. The residue was added to a saturated aqueous solution of NaHCO3 and extracted with CH2Cl2 (×3). The combined CH2Cl2 extracts were dried (Na2SO4) and then concentrated in vacuo. The crude product was treated with DMF (˜1.5 mL). After trying to dissolve material, the insoluble portion was filtered and washed with methanol to provide the title compound (0.024 g, 22% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 7.21 (dd, J=8.81, 5.29 Hz, 2H), 7.03 (t, J=8.69 Hz, 2H), 4.24 (s, 2H), 4.04 (q, J=2.77 Hz, 4H), 3.93 (s, 3H), 1.57 (s, 6H); LCMS (ES+, (M+H)+) m/z 386.22.

reactant | 3-(benzyloxy)-N,9,9-trimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbothioamide | 0.278 mmol, 0.1 g, 1.0 equiv | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(NC)=S | C18H21N3O3S
reactant | MeI | 1.11 mmol, 0.070 mL, 4 equiv | CI | CH3I
reactant | 2-(4-Fluorophenyl)acetohydrazide | 0.84 mmol, 0.14 g, 3 equiv | FC1=CC=C(C=C1)CC(=O)NN | C8H9FN2O
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 0.9 mL | C(C)#N | C2H3N
product | 2-(5-(4-Fluorobenzyl)-4-methyl-4H-1,2,4-triazol-3-yl)-3-hydroxy-9,9-dimethyl-6,7-dihydropyrimido[2,1-c][1,4]oxazin-4(9H)-one | 0.024 g, 22% yield | FC1=CC=C(CC=2N(C(=NN2)C=2N=C3C(OCCN3C(C2O)=O)(C)C)C)C=C1 | C19H20FN5O3
